US09084794B2
e) 4-cyclopropyl-9-(1-(2-fluoro-4-(quinolin-7-yl)phenyl)-2-hydroxyethyl)-1-oxa-4,9-diazaspiro[5.5]undecan-3-one
A solution of 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl acetate (0.345 mmol) in 1,4-dioxane (1.5 mL) was treated with 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (0.380 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.017 mmol), and 2M aq potassium carbonate (1.035 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture irradiated in a Biotage Initiator Microwave at 120° C. for 15 min. The mixture was then concentrated to dryness in vacuo. The brown residue was diluted with ethanol (2 mL) and the solution was stirred in an oil bath at 50° C. overnight, after which the reaction was concentrated to dryness under a stream of nitrogen. The crude material was suspended in water (50 mL) and was extracted three times with ethyl acetate. The aqueous layer was further diluted with brine (20 mL) and was extracted once more with tetrahydrofuran. The organic layers (ethyl acetate and tetrahydrofuran) were combined, dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-6% methanol/dichloromethane) and chiral HPLC (Chromegachiral CC4, methanol) afforded the title compound as a white solid in >98% ee (21 mg, 12% yield). MS(ES)+ m/e 476.1 [M+H]+. αD=+ 20 deg (c=0.04, methanol).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl acetate | 0.345 mmol | C(C)(=O)OCC(N1CCC2(CN(C(CO2)=O)C2CC2)CC1)C1=C(C=C(C=C1)Br)F | C21H26BrFN2O4
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.380 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | potassium carbonate | 1.035 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.017 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 4-cyclopropyl-9-(1-(2-fluoro-4-(quinolin-7-yl)phenyl)-2-hydroxyethyl)-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | 12% yield | C1(CC1)N1C(COC2(C1)CCN(CC2)C(CO)C2=C(C=C(C=C2)C2=CC=C1C=CC=NC1=C2)F)=O | C28H30FN3O3
